US08937091B2
N,N-bis(2-hydroxyethyl)aminoethyl-2-pyrazylketone 8678
1-acetylpyrazine (122 mg), diethanol amine (105 mg), and paraformaldehyde (39 mg) were reacted in dioxane (0.2 ml) at 130° C. for 2 hours.

reactant | 1-acetylpyrazine | 122 mg | C(C)(=O)N1CC=NC=C1 | C6H8N2O
reactant | diethanol amine | 105 mg | N(CCO)CCO | C4H11NO2
reactant | paraformaldehyde | 39 mg | C=O | CH2O
reactant | dioxane | 0.2 ml | O1CCOCC1 | C4H8O2
product | N,N-bis(2-hydroxyethyl)aminoethyl-2-pyrazylketone | C1=CN=C(C=N1)C(=O)CCN(CCO)CCO | C11H17N3O3
